US04220645
2-[4-(3-bromo propoxy) 3,5-dimethyl benzoyl] chromone.
27.6 g (0.2 mol) of potassium carbonate was added to a solution of 29.4 g (0.1 mol) of 2-(3,5-dimethyl 4-hydroxy benzoyl) chromone in 150 ml of dimethyl formamide, 101 g (0.5 mol) of 1,3-dibromo propane was added and the admixture left at ambient temperature for 15 hours with constant agitation. The potassium bromide precipitate was filtered, the dimethyl formamide was concentrated in vacuo and the residue dissolved in 300 ml of water. Extraction was effected with 200 ml of methylene chloride, and precipitation was then effected by adding 200 ml of ether. The product was 36 g of 2-[4-(3-bromo propoxy) 3,5-dimethyl benzoyl] chromone.

reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3,5-dimethyl 4-hydroxy benzoyl) chromone | 0.1 mol, 29.4 g | CC=1C=C(C(=O)C=2OC3=CC=CC=C3C(C2)=O)C=C(C1O)C | C18H14O4
reactant | 1,3-dibromo propane | 0.5 mol, 101 g | BrCCCBr | C3H6Br2
solvent | dimethyl formamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[4-(3-bromo propoxy) 3,5-dimethyl benzoyl] chromone | BrCCCOC1=C(C=C(C(=O)C=2OC3=CC=CC=C3C(C2)=O)C=C1C)C | C21H19BrO4
